US04737494
To 30 ml of tetrahydrofuran, 0.8 g of N-methyl-(2-cyanoethyl)amine was dissolved, and 2.0 g of 2-methylthio-1,3-dithiolium iodide was gradually added thereto under stirring at room temperature. The mixture was stirred at room temperature for 1 hour, and then the precipitated crystals were collected by filtration and recrystallized from acetone-ethyl ether, whereby 1.8 g (yield: 80%) of 1-(1,3-dithiol-2-ylidene)-N-methyl-N-(2-cyanoethyl)ammonium iodide (Compound No. 4) was obtained as crystals having a melting point of 203° C.

reactant | N-methyl-(2-cyanoethyl)amine | 0.8 g | CNCCC#N | C4H8N2
reactant | 2-methylthio-1,3-dithiolium iodide | 2.0 g | [I-].CSC1=[S+]C=CS1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(1,3-dithiol-2-ylidene)-N-methyl-N-(2-cyanoethyl)ammonium iodide | 1.8 g, yield: 80% | [I-].S1C(SC=C1)=C[NH2+]CCC#N | InChI=1S/C7H8N2S2.HI/c8-2-1-3-9-6-7-10-4-5-11-7;/h4-6,9H,1,3H2;1H
